US08193361B2
In a similar procedure, 5-hydroxy-1,3-benzoxathiol-2-one was reacted with 2-chloro-2-methylthio-N-(2-methylpent-3-yn-2-yl)acetamide to give 5-(2-oxo-1,3-benzoxathiolyl)-2-methylthio-N-(2-methylpent-3-yn-2-yl)acetamide (Compound No. 4 of Table 7).

reactant | 5-hydroxy-1,3-benzoxathiol-2-one | OC=1C=CC2=C(SC(O2)=O)C1 | C7H4O3S
reactant | 2-chloro-2-methylthio-N-(2-methylpent-3-yn-2-yl)acetamide | ClC(C(=O)NC(C)(C#CC)C)SC | C9H14ClNOS
product | 5-(2-oxo-1,3-benzoxathiolyl)-2-methylthio-N-(2-methylpent-3-yn-2-yl)acetamide | O=C1OC2=C(S1)C(=CC=C2)CC#CC(C)(C)NC(CSC)=O | C16H17NO3S2
